US09328099B2
Step A-B. [1-(Ethylsulfonyl)azetidin-3-ylidene]acetonitrile
tert-Butyl 3-(cyanomethylidene)azetidine-1-carboxylate (5.0 g, 26 mmol) was dissolved in 4M HCl in dioxane (25.7 mL) and allowed to stir at ambient temperature for 16 hours. The mixture was concentrated to dryness in vacuo, then dissolved in DCM (30.0 mL) and cooled to −10° C. DIPEA (11.6 g, 90.0 mmol) was added followed by ethanesulfonyl chloride (5.0 g, 39 mmol). The resulting mixture was allowed to stir for 7 hours before the mixture was diluted with water and extracted with DCM. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by MPLC on silica gel (using a gradient elution of 5-70% EtOAc/heptane). Desired fractions were identified, combined, and concentrated in vacuo to afford the title compound.

reactant | tert-Butyl 3-(cyanomethylidene)azetidine-1-carboxylate | 26 mmol, 5.0 g | C(#N)C=C1CN(C1)C(=O)OC(C)(C)C | C10H14N2O2
reactant | DIPEA | 90.0 mmol, 11.6 g | CCN(C(C)C)C(C)C | C8H19N
reactant | ethanesulfonyl chloride | 39 mmol, 5.0 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 25.7 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | [1-(Ethylsulfonyl)azetidin-3-ylidene]acetonitrile | C(C)S(=O)(=O)N1CC(C1)=CC#N | C7H10N2O2S
